US07192982B2
(S)-3-(4-hydroxy-phenyl)-2-methoxy-propionic-acid ethyl ester
A solution of (S)-3-(4-hydroxy-phenyl)-2-methoxy-propionic acid (20 g, 100 mmol) in 3 A ethanol (140 mL) was treated dropwise with concentrated sulfuric acid (5.7 mL)) and stirred at room temperature overnight. The solution was concentrated and is water (110 mL) was added. Sodium bicarbonate was added to bring the pH to 7–8. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with 20% NaCl solution (50 ml), dried (MgSO4), filtered, and concentrated to a golden oil (18 g, 80%). 1H-NMR (CDCl3): 7.1(d, 2H); 6.7(d, 2H); 4.2(m, 2H); 3.9(m, 1H); 3.6(s, 3H); 2.95(m, 2H); 125(t, 3H). MS (ES): 223.2 (M−1).

reactant | (S)-3-(4-hydroxy-phenyl)-2-methoxy-propionic acid | 100 mmol, 20 g | OC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C10H12O4
reactant | sulfuric acid | 5.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 140 mL | C(C)O | C2H6O
product | (S)-3-(4-hydroxy-phenyl)-2-methoxy-propionic-acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OC)=O | C12H16O4
